US04595532
N-[Di-(ethoxycarbonyl)methyl]-3-amino-4-methyl-2-azetidinone
Ox-L-Threonylaminomalonate (0.45 g, 0.92 mmoles) and TPP (0.26 g, 0.1 mmoles) were dissolved in THF (15 mL). DIAD (0.196 mL, 0.1 mmoles) in THF (15 mL) was added dropwise over 0.5 hour, after which the reaction mixture was evaporated and chromatographed (silica, 9:1 methylene chloride to ether). A mixture (0.32 g) containing the product was eluted. By NMR this mixture contained the desired β-lactam along with the dehydropeptide and the pyrrolidinone. The ratio of products (73%) was roughly 2:1:1. Careful rechromatography (slower gradient) led to the isolation of the β-lactam 50 mg (0.1 mmoles, 11%); M.P. 140°-142° C. NMR (DCCl3): 1.16-1.14 (9H, m); 4.09-4.5 (7H, m); 5.13 (1H, s); 7.23 (5H, s); 7.3-7.66 (5H, m).

reactant | L-Threonylaminomalonate | 0.92 mmoles, 0.45 g | N[C@@H]([C@H](O)C)C(=O)NC(C(=O)[O-])C(=O)[O-]
reactant | DIAD | 0.1 mmoles, 0.196 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | N-[Di-(ethoxycarbonyl)methyl]-3-amino-4-methyl-2-azetidinone | C(C)OC(=O)C(N1C(C(C1C)N)=O)C(=O)OCC | C11H18N2O5
